US06054457
To a mixture of 4-[2-[(3-tert-butoxycarbonylaminoprop-1-yl)oxy]benzoyl]amino-3-methoxy-N-methyl-N-[2-[5-(4-oxopiperidin-1-yl)carbonylpent-1-yl]oxy-4-methylphenyl]benzamide (250 mg), ammonium acetate (51 mg) and acetic acid (0.5 ml) in methanol (10 ml) was added sodium cyanoborohydride (21 mg) at 0° C. and the mixture was stirred at ambient temperature for 12 hours. The mixture was poured into ice-cooled 1N aqueous sodium hydroxide solution (15 ml) and the solution was extracted with chloroform (15 ml×3). The organic layer was washed with brine and dried over potassium carbonate. The solvent was evaporated in vacuo and the residue was purified by silica gel column chromatography (SiO2 40 g, 5-15% methanol in chloroform) to give 4-[2-[(3-tert-butoxycarbonylaminoprop-1-yl)oxy]benzoyl]amino-3-methoxy-N-methyl-N-[2-[5-(4-aminopiperidin-1-yl)carbonylpent-1-yl]oxy-4-methylphenyl]benzamide (91 mg).

reactant | 4-[2-[(3-tert-butoxycarbonylaminoprop-1-yl)oxy]benzoyl]amino-3-methoxy-N-methyl-N-[2-[5-(4-oxopiperidin-1-yl)carbonylpent-1-yl]oxy-4-methylphenyl]benzamide | 250 mg | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCC(CC3)=O)C)C=C2)OC)C=CC=C1 | C42H54N4O9
reactant | ammonium acetate | 51 mg | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 21 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 4-[2-[(3-tert-butoxycarbonylaminoprop-1-yl)oxy]benzoyl]amino-3-methoxy-N-methyl-N-[2-[5-(4-aminopiperidin-1-yl)carbonylpent-1-yl]oxy-4-methylphenyl]benzamide | 91 mg | C(C)(C)(C)OC(=O)NCCCOC1=C(C(=O)NC2=C(C=C(C(=O)N(C3=C(C=C(C=C3)C)OCCCCCC(=O)N3CCC(CC3)N)C)C=C2)OC)C=CC=C1 | C42H57N5O8
